US08350044B2
Preparation of 1-(2-methyl-pentanoyl)-piperidine-3-carboxylic acid [2-(5-fluoro-pyridin-3-yl)-4-methyl-thiazol-5-yl]-methyl-amide (Compound 582)
A solution of N-(2-(5-fluoropyridin-3-yl)-4-methylthiazol-5-yl)-N-methylpiperidine-3-carboxamide (250 mg, 0.75 mmol), DMAP (91 mg, 0.75 mmol), potassium carbonate (310 mg, 2.243 mmol), and 2-methylpentanoyl chloride (201 mg, 1.495 mmol) in DCE (10 mL) was heated at 80° C. for 6 h. The cooled contents were diluted with water:dichloromethane (1:1, 20 mL) and the organic layer was collected and concentrated. The residue was purified via reversed phase chromatography (0 to 100% acetonitrile/water) to furnish the title compound as a clear oil (207 mg, 64%): 1H NMR (400 MHz, CDCl3) δ 8.89 (s, 1H), 8.54 (d, J=2.2 Hz, 1H), 7.96 (dt, J=9.0, 2.2 Hz, 1H), 4.63-4.59 (m, 1H), 3.92-3.78 (m, 1H), 3.42 (s, 3H), 2.66-2.48 (m, 4H), 2.38 (s, 3H), 1.89-1.73 (m, 2H), 1.71-1.68 (m, 2H), 1.38-1.17 (m, 4H), 1.08-1.01 (m, 3H), 0.97-0.86 (m, 3H); ESIMS m/z 433 (M+1).

reactant | N-(2-(5-fluoropyridin-3-yl)-4-methylthiazol-5-yl)-N-methylpiperidine-3-carboxamide | 0.75 mmol, 250 mg | FC=1C=C(C=NC1)C=1SC(=C(N1)C)N(C(=O)C1CNCCC1)C | C16H19FN4OS
reactant | potassium carbonate | 2.243 mmol, 310 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylpentanoyl chloride | 1.495 mmol, 201 mg | CC(C(=O)Cl)CCC | C6H11ClO
catalyst | DMAP | 0.75 mmol, 91 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | water dichloromethane | 20 mL | O.ClCCl
product | 1-(2-methyl-pentanoyl)-piperidine-3-carboxylic acid [2-(5-fluoro-pyridin-3-yl)-4-methyl-thiazol-5-yl]-methyl-amide | 207 mg, 64% | FC=1C=C(C=NC1)C=1SC(=C(N1)C)N(C(=O)C1CN(CCC1)C(C(CCC)C)=O)C | C22H29FN4O2S
